US08937200B2
As a process for producing 2-(aryloxymethyl)benzaldehyde, for example, the following method is described in JP 2009-215286 A (Example 5). In the method, 2-(2,5-dimethylphenoxymethyl)benzaldehyde is obtained by reacting 2-(2,5-dimethylphenoxymethyl)benzal chloride and sodium methoxide, and then a resulting acetal compound is extracted with xylene. Then, an organic layer obtained after liquid separation is mixed with an aqueous sulfuric acid solution to hydrolyze the acetal compound to obtain 2-(2,5-dimethylphenoxymethyl)benzaldehyde.

reactant | 2-(2,5-dimethylphenoxymethyl)benzal chloride | CC1=C(OCC2=C(C(Cl)Cl)C=CC=C2)C=C(C=C1)C | C16H16Cl2O
reactant | sodium methoxide | C[O-].[Na+]
product | 2-(2,5-dimethylphenoxymethyl)benzaldehyde | CC1=C(OCC2=C(C=O)C=CC=C2)C=C(C=C1)C | C16H16O2
